US06632824B2
8-Bromo-6-methoxyquinoline
To 5.05 g (29.0 mmol) 6-methoxy-quinolin-8-yl-amine in 25 mL of 48% HBr at 0° C. is added a solution of 2.60 g (37.7 mmol) and 20 mL H2O. After stirring at 0° C. for 15 min, the resulting mixture is added dropwise to a 75° C. solution of 5.0 g (34.8 mmol) CuBr and 60 mL of 48% HBr. After 5.5 h, the reaction mixture is neutralized with 150 mL of ice cold 5N NaOH, the resulting mixture is stirred with 300 mL EtOAc and filtered through a pad of celite. This mixture is extracted 2×100 mL EtOAc, and the combined organics are washed with 1×200 mL H2O, 1×200 mL brine, dried over Na2SO4, filtered, and the volatiles are evaporated. Flash chromatography on SiO2 gel, eluting with hexanes/EtOAc (4/1 to 1/1), gives 4.23 g (17.8 mmol, a 61% yield) of the title compound as a brown oil. MS (ES) m/z 239 (MH)+.

reactant | 6-methoxy-quinolin-8-yl-amine | 29.0 mmol, 5.05 g | COC=1C=C2C=CC=NC2=C(C1)N | C10H10N2O
reactant | H2O | 20 mL | O | H2O
reactant | EtOAc | 300 mL | CCOC(=O)C | C4H8O2
reactant | HBr | 25 mL | Br | BrH
reactant | HBr | 60 mL | Br | BrH
product | 8-Bromo-6-methoxyquinoline | 61% yield | BrC=1C=C(C=C2C=CC=NC12)OC | C10H8BrNO
